US08461328B2
A mixture of racemic trans [3-(6-benzenesulfonyl-6H-1,2,3,5,6-pentaaza-as-indacen-1-yl)-cyclopentyl]-carbamic acid tert-butyl ester (2.00 g, 4.14 mmol), aqueous sodium hydroxide solution (10.4 mL, 20.7 mmol, 2M), methanol (30 mL) and THF (50 mL) was stirred at ambient temperature for 45 minutes. DCM was added and the solution washed (water and brine) and concentrated to dryness. Purification by column chromatography on silica gel (gradient: DCM to ethyl acetate) afforded 902 mg (64%) of racemic trans [3-(6H-1,2,3,5,6-pentaaza-as-indacen-1-yl)-cyclopentyl]-carbamic acid tert-butyl ester as an off white solid. LCMS (Method B, ESI): RT=3.21 min, m+H=343.3; 1H NMR (400 MHz, DMSO) δ: 12.34 (s, 1H), 8.99 (s, 1H), 7.60 (d, 1H), 7.18 (d, 1H), 7.03 (d, 1H), 5.64 (m, 1H), 4.23 (m, 1H), 2.47 (m, 2H, partially obscured by DMSO), 2.20 (m, 3H), 1.70 (m, 1H), 1.40 (s, 9H).

reactant | racemic trans [3-(6-benzenesulfonyl-6H-1,2,3,5,6-pentaaza-as-indacen-1-yl)-cyclopentyl]-carbamic acid tert-butyl ester | 4.14 mmol, 2.00 g | C(C)(C)(C)OC(N[C@@H]1C[C@H](CC1)N1N=NC2=CN=C3N(C=CC3=C12)S(=O)(=O)C1=CC=CC=C1)=O | C23H26N6O4S
reactant | sodium hydroxide | 20.7 mmol, 2M, 10.4 mL | [OH-].[Na+]
reactant | methanol | 30 mL | CO | CH4O
reactant | THF | 50 mL | C1CCOC1 | C4H8O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | racemic trans [3-(6H-1,2,3,5,6-pentaaza-as-indacen-1-yl)-cyclopentyl]-carbamic acid tert-butyl ester | 902 mg, 64% | C(C)(C)(C)OC(N[C@@H]1C[C@H](CC1)N1N=NC2=CN=C3NC=CC3=C12)=O | C17H22N6O2
